US08227458B2
cis/trans-4-(Pyrimidin-4-yloxy)-cyclohexanecarboxylic acid hydrazide (1:1)
To a solution of cis/trans-4-(pyrimidin-4-yloxy)-cyclohexanecarboxylic acid (1:1) (0.750 g, 3.37 mmol) and triethylamine (0.470 ml, 3.37 mmol) in THF (16 ml) was added ethyl chloroformate (0.322 ml, 3.37 mmol) at 0° C. The reaction mixture was stirred for 1 h. The ammonium salts were removed by filtration. The filtrate was added to a cold solution of hydrazine hydrate (0.338 g, 6.75 mmol) in methanol (20 ml). The reaction mixture was stirred for 2 h at room temperature. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate (100 ml) and a 1:1 mixture of 1 M aqueous sodium hydroxide solution and brine (30 ml). The organic layer was separated. The aqueous layer was extracted with three 100-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.588 g, 74%) as off-white solid, which was used in the next step without further purification.

reactant | trans-4-(pyrimidin-4-yloxy)-cyclohexanecarboxylic acid | 3.37 mmol, 0.750 g | N1=CN=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)O | C11H14N2O3
reactant | triethylamine | 3.37 mmol, 0.470 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.37 mmol, 0.322 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrazine hydrate | 6.75 mmol, 0.338 g | O.NN
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | trans-4-(Pyrimidin-4-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.588 g, 74% | N1=CN=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)NN | C11H16N4O2
